US05703246
Phenyldiazomethane (solution in tert-butyl methyl ether)
To a solution of sodium methoxide (1.2 equivalent, 4.0 ml of 1M solution in methanol) in tert-butyl methyl ether (12 ml) was added N-nitroso-N-benzyl-p-toluenesulphonamide (966 mg, 3.34 mmol) in small portions at room temperature. After the addition was finished the reaction mixture was refluxed for 15-30 minutes. The reaction mixture was cooled and washed with water (3×12 ml). The etheral solution of phenyldiazomethane was dried over sodium sulphate for 30 minutes.

reactant | sodium methoxide | 1M, 4.0 ml, 1.2 equivalent | C[O-].[Na+]
reactant | N-nitroso-N-benzyl-p-toluenesulphonamide | 3.34 mmol, 966 mg | N(=O)N(S(=O)(=O)C1=CC=C(C=C1)C)CC1=CC=CC=C1 | C14H14N2O3S
solvent | tert-butyl methyl ether | 12 ml | COC(C)(C)C | C5H12O
product | Phenyldiazomethane | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
